US06770646B2
b) 2,6-Dihydro-6-methyl-4-(2-methylpropyl)-2-(1-naphthalenylmethyl)-7H-pyrazolo[3,4-d]pyridazin-7-one
A mixture of ethyl 4-(3-methyl-1-oxobutyl)-1-(1-naphthalenylmethyl)-1H-pyrazole-3-carboxylate (0.15 g) and methylhydrazine (0.1 ml) in ethanol (2 ml) was heated at reflux for 18 hours. The reaction was diluted with water and then extracted into ethyl acetate. The organic phase was washed with brine, dried, filtered and evaporated. The residue was chromatographed, eluting with dichloromethane:ethanol (19:1), to give the title compound (0.08 g).

reactant | ethyl 4-(3-methyl-1-oxobutyl)-1-(1-naphthalenylmethyl)-1H-pyrazole-3-carboxylate | 0.15 g | CC(CC(=O)C=1C(=NN(C1)CC1=CC=CC2=CC=CC=C12)C(=O)OCC)C | C22H24N2O3
reactant | methylhydrazine | 0.1 ml | CNN | CH6N2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2,6-Dihydro-6-methyl-4-(2-methylpropyl)-2-(1-naphthalenylmethyl)-7H-pyrazolo[3,4-d]pyridazin-7-one | 0.08 g | CN1N=C(C=2C(C1=O)=NN(C2)CC2=CC=CC1=CC=CC=C21)CC(C)C | C21H22N4O
